US08193214B2
3-Naphthalen-1-ylmethyl-imidazo[1,2-a]pyridin-2-one
To a suspension of 137 mg (3.7 mmol) of sodium borohydride in 15 mL of ethanol is added a solution of 500 mg (1.8 mmol) of 3-[1-naphthalen-1-yl-methylidene]-imidazo[1,2-a]pyridin-2-one in 50 mL of methanol, dropwise at −78° C. After stirring for 10 min at −78° C., the reaction mixture is quenched with saturated aqueous ammonium chloride solution at −78° C. The product is extracted with dichloromethane. The organic layer is dried over magnesium sulfate, filtered and concentrated in vacuo to give the desired compound.

reactant | sodium borohydride | 3.7 mmol, 137 mg | [BH4-].[Na+]
reactant | 3-[1-naphthalen-1-yl-methylidene]-imidazo[1,2-a]pyridin-2-one | 1.8 mmol, 500 mg | C1(=CC=CC2=CC=CC=C12)C=C1C(N=C2N1C=CC=C2)=O | C18H12N2O
solvent | ethanol | 15 mL | C(C)O | C2H6O
solvent | methanol | 50 mL | CO | CH4O
product | 3-Naphthalen-1-ylmethyl-imidazo[1,2-a]pyridin-2-one | C1(=CC=CC2=CC=CC=C12)CC1C(N=C2N1C=CC=C2)=O | C18H14N2O
